US06194599B1
A solution containing 13.8 g (100 mmol) 2-chlorobenzonitrile, 1.93 g (7.50 mmol) nickel bis(acetylacetonate), and 2.31 mL (9.38 mmol) triisopropyl phosphite in 15 mL of THF was rapidly added to the 4-methylphenylzinc reagent mixture. The mixture was then heated to 40° C., maintained at this temperature for 135 min, then cooled to 0° C. 75 mL of 10% H3PO4 was added in portions while keeping the temperature below 25° C. With the mixture stirring vigorously at room temperature, a rapid flow of air was bubbled through the solution for 15 min to oxidize any remaining nickel(0) to nickel(II). The lower aqueous layer was separated and the remaining organic (THF) phase was extracted twice with isooctane, using 100 mL for the first extraction and 75 mL for the second (isooctane layer is on top, THF layer is on the bottom). The combined isooctane extracts were concentrated by distillation at atmospheric pressure until at least 190 mL of distillate had been collected. 110 mL of isooctane was added to the distillation pot residue and this solution was cooled to 25° C. The resultant solution (ca. 190 mL) was then washed with 25 mL of 30% aqueous methanol, and the lower phase was discarded. The stirred solution was then seeded with 5 mg of 2-(4′-methylphenyl)benzonitrile and cooled to −10° C. to effect crystallization. After crystallization had proceeded at −10° C. for 30 min, stirring was halted and the cold mother liquor was siphoned away from the settled solid. The remaining material was treated with 150 mL of isooctane and heated to 35-40° C. with stirring until all the solids had dissolved (ca. 30 min). The solution was then seeded with 5 mg of 2-(4′-methylphenyl)benzonitrile at room temperature and cooled again to −10° C. to effect crystallization. After 30 min at −10° C. the crystallized product was collected by filtration and the filter cake washed with 25 mL of cold (−10° C.) isooctane. The product was dried under reduced pressure (0.5 Torr; 25° C.) to afford 12.5 g (65%) of 2-(4-methylphenyl)benzonitrile (65% recovered yield based on 2-chlorobenzonitrile) as a fine white crystalline solid (m.p.=50° C.; identity confirmed by 1H- and 13C-NMR).

reactant | 2-chlorobenzonitrile | 100 mmol, 13.8 g | ClC1=C(C#N)C=CC=C1 | C7H4ClN
reactant | triisopropyl phosphite | 9.38 mmol, 2.31 mL | P(OC(C)C)(OC(C)C)OC(C)C | C9H21O3P
reactant | 4-methylphenylzinc | CC1=CC=C(C=C1)[Zn]
reactant | H3PO4 | 75 mL | OP(=O)(O)O | H3O4P
solvent | THF | 15 mL | C1CCOC1 | C4H8O
catalyst | nickel bis(acetylacetonate) | 7.50 mmol, 1.93 g | C/C(=C/C(=O)C)/[O-].C/C(=C/C(=O)C)/[O-].[Ni+2]
product | 2-(4-methylphenyl)benzonitrile | 12.5 g | CC1=CC=C(C=C1)C1=C(C#N)C=CC=C1 | C14H11N
